US05616586
9-Bromo-5-(p-nitrophenylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 52 was carried out with 9-bromo-5-carboxymethyl-6,7-dihydro- 1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (170 mg, 0.5 mmol) and p-nitroaniline (70 mg, 0.51 mmol) to give 80 mg of the title compound (35%): mp>270° C.; 1H NMR (270 MHz, DMSO-d6) δ12.07 (s, 1H), 10.65 (s, 1H), 8.23 (d, 2H, J=9.2 Hz), 7.30 (d, 2H, J=9.2 Hz), 7.24 (bs, 1H), 7.18 (bs, 1H), 5.20~5.29 (m, 1H), 3.04 (ddd, 1H, J=17.1, 13.5, 4.5 Hz), 2.83 (dm, 1H, J=17.1 Hz), 2.68 (d, 2H, J=7.3 Hz), 2.11 (dm, 1H, J=13.5 Hz), 1.82~1.97 (m, 1H).

reactant | 9-bromo-5-carboxymethyl-6,7-dihydro- 1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 0.5 mmol, 170 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(=O)O | C13H11BrN2O4
reactant | p-nitroaniline | 0.51 mmol, 70 mg | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
product | 9-Bromo-5-(p-nitrophenylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 80 mg, 35% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(NC2=CC=C(C=C2)[N+](=O)[O-])=O | C19H15BrN4O5
